US09062015B2
FS1033 3-{4-[6-(5,5,8,8-Tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)pyridin-2-yl]-1,4-diazepan-1-yl}propan-1-ol
The preparation is carried out analogously to FS301 starting from 66 mg (0.18 mmol) of 1-[6-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-pyridin-2-yl]-1,4-diazepane and 18 μl of 3-chloro-1-propanol. The product is the hydrochloride.

reactant | 1-[6-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-pyridin-2-yl]-1,4-diazepane | 0.18 mmol, 66 mg | CC1(C=2C=CC(=CC2C(CC1)(C)C)C1=CC=CC(=N1)N1CCNCCC1)C | C24H33N3
reactant | 3-chloro-1-propanol | 18 μl | ClCCCO | C3H7ClO
reactant | hydrochloride | Cl | ClH
product | 3-{4-[6-(5,5,8,8-Tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)pyridin-2-yl]-1,4-diazepan-1-yl}propan-1-ol | CC1(C=2C=CC(=CC2C(CC1)(C)C)C1=CC=CC(=N1)N1CCN(CCC1)CCCO)C | C27H39N3O
